US03987009
Allyl Diphenylphosphine Oxide
A mixture of diphenylphosphine chloride (11 g, 0.05 mol), allyl alcohol (2.9 g, 0.05 mol) in 50 ml of anhydrous ether is stirred at room temperature while slowly adding pyridine (4.0 g, 0.05 mol) to it. After 40 minutes, the pyridine hydrochloride is filtered off and the ether removed by distillation. The liquid residue is heated to 150°, whereupon an exothermic reactions sets in raising the temperature quickly to 178° C. The material is then distilled, b.p. 168°-175° C/0.4 mm, whereupon it crystallizes, m.p. 108° identical to the allyl diphenylphosphine oxide made by oxidation of the phosphine. Allyl diphenylphosphine oxide prepared by this method is reported; b.p. 200°-202° C/2 mm; m.p. 94°-96° C.

reactant | diphenylphosphine chloride | 0.05 mol, 11 g | [Cl-].C1(=CC=CC=C1)PC1=CC=CC=C1
reactant | allyl alcohol | 0.05 mol, 2.9 g | C(C=C)O | C3H6O
reactant | pyridine | 0.05 mol, 4.0 g | N1=CC=CC=C1 | C5H5N
solvent | ether | 50 ml | CCOCC | C4H10O
product | Allyl Diphenylphosphine Oxide | C(C=C)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C15H15OP
